.SUBCKT j174 10 20 30
J1 10 20 30 PJF
.MODEL PJF PJF
+             VTO = -7.1507E+000
+            BETA = 1.24461E-003
+          LAMBDA = 2.01968E-002
+              RD = 3.95403E+000
+              RS = 3.95403E+000
+              IS = 9.72750E-016
+            CGS  = 1.58000E-011
+            CGD  = 1.88000E-011
+              PB = 3.72072E-001
+              FC = 5.00000E-001
.ENDS
.SUBCKT j175 10 20 30
J1 10 20 30 PJF
.MODEL PJF PJF
+             VTO = -3.6320E+000
+            BETA = 2.84523E-003
+          LAMBDA = 2.00000E-002
+              RD = 1.17482E+001
+              RS = 1.17482E+001
+              IS = 7.74158E-016
+            CGS  = 1.57000E-011
+            CGD  = 1.70000E-011
+              PB = 3.19450E-001
+              FC = 5.00000E-001
.ENDS
.SUBCKT j176 10 20 30
J1 10 20 30 PJF
.MODEL PJF PJF
+             VTO = -2.3000E+000
+            BETA = 2.89414E-003
+          LAMBDA = 2.00000E-002
+              RD = 1.02409E+000
+              RS = 1.02409E+000
+              IS = 4.51393E-016
+            CGS  = 1.00000E-011
+            CGD  = 1.05000E-011
+              PB = 7.05860E-001
+              FC = 5.00000E-001
.ENDS
.SUBCKT j177 10 20 30
J1 10 20 30 PJF
.MODEL PJF PJF
+             VTO = -1.8000E+000
+            BETA = 3.37432E-003
+          LAMBDA = 2.41676E-002
+              RD = 1.45880E+000
+              RS = 1.45880E+000
+              IS = 7.27555E-016
+            CGS  = 8.90000E-012
+            CGD  = 1.02500E-011
+              PB = 6.94243E-001
+              FC = 5.00000E-001
.ENDS
.SUBCKT pmbfj174 10 20 30
J1 10 20 30 PJF
.MODEL PJF PJF
+             VTO = -7.1507E+000
+            BETA = 1.24461E-003
+          LAMBDA = 2.01968E-002
+              RD = 3.95403E+000
+              RS = 3.95403E+000
+              IS = 9.72750E-016
+            CGS  = 1.58000E-011
+            CGD  = 1.88000E-011
+              PB = 3.72072E-001
+              FC = 5.00000E-001
.ENDS
.SUBCKT pmbfj175 10 20 30
J1 10 20 30 PJF
.MODEL PJF PJF
+             VTO = -3.6320E+000
+            BETA = 2.84523E-003
+          LAMBDA = 2.00000E-002
+              RD = 1.17482E+001
+              RS = 1.17482E+001
+              IS = 7.74158E-016
+            CGS  = 1.57000E-011
+            CGD  = 1.70000E-011
+              PB = 3.19450E-001
+              FC = 5.00000E-001
.ENDS
.SUBCKT pmbfj176 10 20 30
J1 10 20 30 PJF
.MODEL PJF PJF
+             VTO = -2.3000E+000
+            BETA = 2.89414E-003
+          LAMBDA = 2.00000E-002
+              RD = 1.02409E+000
+              RS = 1.02409E+000
+              IS = 4.51393E-016
+            CGS  = 1.00000E-011
+            CGD  = 1.05000E-011
+              PB = 7.05860E-001
+              FC = 5.00000E-001
.ENDS
.SUBCKT pmbfj177 10 20 30
J1 10 20 30 PJF
.MODEL PJF PJF
+             VTO = -1.8000E+000
+            BETA = 3.37432E-003
+          LAMBDA = 2.41676E-002
+              RD = 1.45880E+000
+              RS = 1.45880E+000
+              IS = 7.27555E-016
+            CGS  = 8.90000E-012
+            CGD  = 1.02500E-011
+              PB = 6.94243E-001
+              FC = 5.00000E-001
.ENDS
